US08530478B2
1-{[4-(Trifluoromethyl)phenyl]sulfonyl}piperazine
To a solution of 1,1-dimethylethyl 4-{[4-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate in 1,4-dioxane (100 ml) was added 4M HCl in 1,4-dioxane (50 ml, 200 mmol) and 3 drops of distilled water. The reaction mixture was stirred overnight. Reaction mixture was then reduced to dryness in vacuo.

reactant | 1,1-dimethylethyl 4-{[4-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H21F3N2O4S
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
solvent | 1,4-dioxane | 200 mmol, 50 ml | O1CCOCC1 | C4H8O2
product | 1-{[4-(Trifluoromethyl)phenyl]sulfonyl}piperazine | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | C11H13F3N2O2S
